US06455528B1
(12) Synthesis of N,N-bis(2-Chloroethyl)-4-fluorophenylamine
To a solution of N,N-bis(2-hydroxyethyl)-4-fluorophenylamine (9.2 g) in methylene chloride (92 ml) was added dropwise thionyl chloride (7.1 ml) over 10 min under ice-cooling. The mixture was stirred at room temperature for 1 hr and the reaction mixture was further refluxed for 1.5 hr. The mixture was poured into aqueous sodium hydrogencarbonate to make it alkaline and the organic layer was separated. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=10:1) to give the title compound (4.88 g) as an organge oil.

reactant | N,N-bis(2-hydroxyethyl)-4-fluorophenylamine | 9.2 g | OCCN(CCO)C1=CC=C(C=C1)F | C10H14FNO2
reactant | thionyl chloride | 7.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | methylene chloride | 92 ml | C(Cl)Cl | CH2Cl2
product | N,N-bis(2-Chloroethyl)-4-fluorophenylamine | 4.88 g | ClCCN(CCCl)C1=CC=C(C=C1)F | C10H12Cl2FN
